US06949648B2
3,6-Dimethyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-4-ol
A mixture of 3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-amine (1.8 g, 10 mmol) and polyphosphoric acid (4.2 g) was heated at 130° C. The mixture was stirred thoroughly at the same temperature, while ethyl acetoacetate (1.3 mL, 10 mmol) was added dropwise thereto, and the resulting mixture was stirred at the same temperature for 1 hour. The mixture was cooled to room temperature, iced water was added thereto. The mixture was neutralized with an aqueous sodium hydroxide solution, and organic matter was extracted with chloroform. The extract was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform:methanol=50:1 to 20:1), and recrystallized from ethyl acetate to give the title compound (0.72 g, 30% yield).

reactant | 3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-amine | 10 mmol, 1.8 g | CC1=NN(C(=C1)N)C1=NC=CC=C1 | C9H10N4
reactant | ethyl acetoacetate | 10 mmol, 1.3 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3,6-Dimethyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 0.72 g, 30% yield | CC1=NN(C=2N=C(C=C(C21)O)C)C2=NC=CC=C2 | C13H12N4O
